US08466282B2
Ethyl 3-(phenoxymethyl)imidazo[1,2-a]pyridine-2-carboxylate (889 mg) was dissolved in ethanol (50 ml), 2N aqueous sodium hydroxide solution (3 ml) was added, and the mixture was stirred at room temperature for 15 hr. The precipitated crystals were collected by filtration, and washed with ethanol to give sodium 3-(phenoxymethyl)imidazo[1,2-a]pyridine-2-carboxylate (680 g). The obtained sodium 3-(phenoxymethyl)imidazo[1,2-a]pyridine-2-carboxylate (290 mg), tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (370 mg) and N,N-diisopropylethylamine (862 μl) were dissolved in acetonitrile (20 ml), chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (561 mg) was added and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated, and the residue was diluted with aqueous sodium bicarbonate, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (9:1) was concentrated under reduced pressure to give the object product (563 mg).

reactant | Ethyl 3-(phenoxymethyl)imidazo[1,2-a]pyridine-2-carboxylate | 889 mg | O(C1=CC=CC=C1)CC1=C(N=C2N1C=CC=C2)C(=O)OCC | C17H16N2O3
reactant | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | sodium 3-(phenoxymethyl)imidazo[1,2-a]pyridine-2-carboxylate | 680 g | O(C1=CC=CC=C1)CC1=C(N=C2N1C=CC=C2)C(=O)[O-].[Na+] | InChI=1S/C15H12N2O3.Na/c18-15(19)14-12(10-20-11-6-2-1-3-7-11)17-9-5-4-8-13(17)16-14;/h1-9H,10H2,(H,18,19);/q;+1/p-1
